US03996374
A suspension of 19.5 g. of 1-ethoxycarbonyl-5-chloro-3-phenylisoindole-2-acetic acid ethyl ester in 150 ml. of ethanol is treated with 60 ml. of 1.0-N sodium hydroxide and boiled at reflux for 30 minutes. After allowing the mixture to stand for 2 hours in an ice-bath, the crystallized sodium salt is removed by filtration under vacuum, washed with ethanol and then dissolved in a mixture of 400 ml. of ethanol and 250 ml. of water. The obtained solution is acidified with 160 ml. of 0.5-N hydrochloric acid with stirring at 40°-45° C. and then left to stand in an ice-bath for 2 hours. The separated acid is removed by filtration under vacuum, washed with water and then dissolved in 750 ml. of methylene chloride. The aqueous layer is separated, the organic phase dried over sodium sulfate and concentrated to about 200 ml. Then, the crystallized colorless acid is removed by filtration under suction and washed with a small amount of methylene chloride, and there is obtained 1-ethoxycarbonyl-5-chloro-3-phenylisoindole-2-acetic acid; melting point 217°-220° C. (decomposition).

reactant | 1-ethoxycarbonyl-5-chloro-3-phenylisoindole-2-acetic acid ethyl ester | C(C)OC(CN1C(=C2C=CC(=CC2=C1C1=CC=CC=C1)Cl)C(=O)OCC)=O | C21H20ClNO4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1-ethoxycarbonyl-5-chloro-3-phenylisoindole-2-acetic acid | C(C)OC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)CC(=O)O | C19H16ClNO4
